US06403561B1
a) Preparation of N-(tert-butoxycarbonyl)-L-proline n-butylamide
5.0 g of succinimide ester of N-(tert-butoxycarbonyl)-L-proline (0.016 mmol), marketed by Novabiochem, are dissolved in tetrahydrofuran (50 ml). 1.533 ml of n-butylamine (0.015 mmol) are then added thereto, at 0° C. over 10 minutes, and the mixture is stirred for one hour. The solvent is removed and the resulting crude material is purified by chromatography on silica, using ethyl acetate as eluent. An oil is obtained.

reactant | N-(tert-butoxycarbonyl)-L-proline | 0.016 mmol | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | n-butylamine | 0.015 mmol, 1.533 ml | C(CCC)N | C4H11N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(tert-butoxycarbonyl)-L-proline n-butylamide | C(CCC)NC([C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C14H26N2O3
